### PR TITLE
[Merged by Bors] - feat: `a + a = 0 ↔ a = 0` in `ZMod n` for `n` odd

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that `a + a = 0 ↔ a = 0`, and uses it to golf the proof of `ne_neg_self`.

---

I removed `le_div_two_iff_lt_neg` since it seems to just be a technical auxiliary lemma for the current proof of `ne_neg_self`, but I can add it back if people think it should be kept around. If we do keep it around, I wonder if it would be better to state it as `2 * x.val < n ↔ n < 2 * (-x).val` (or something like that) to avoid natural number division.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Basic.lean [hunk 1]
```diff
@@ -788,35 +788,14 @@ instance subsingleton_units : Subsingleton (ZMod 2)ˣ :=
...
-        sub_eq_add_neg, ← ZMod.nat_cast_zmod_val x, ← Nat.cast_sub x.val_le, ZMod.val_nat_cast,
-        Nat.mod_eq_of_lt hxn, tsub_le_tsub_iff_left x.val_le]
-#align zmod.le_div_two_iff_lt_neg ZMod.le_div_two_iff_lt_neg
-
-theorem ne_neg_self (n : ℕ) [hn : Fact ((n : ℕ) % 2 = 1)] {a : ZMod n} (ha : a ≠ 0) : a ≠ -a :=
-  fun h => by
-  have : a.val ≤ n / 2 ↔ (n : ℕ) / 2 < (-a).val := le_div_two_iff_lt_neg n ha
-  rwa [← h, ← not_lt, ← not_iff, iff_self, not_true] at this
+@[simp]
+theorem add_self_eq_zero_iff_eq_zero {n : ℕ} (hn : ¬ 2 ∣ n) {a : ZMod n} :
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:792]: I think using `Odd` would make more sense here; did you have a reason not to?

File: Mathlib/Data/ZMod/Basic.lean [hunk 2]
```diff
@@ -788,35 +788,14 @@ instance subsingleton_units : Subsingleton (ZMod 2)ˣ :=
...
+    a + a = 0 ↔ a = 0 := by
+  rw [←mul_two, ←@Nat.cast_two (ZMod n),
+      ←ZMod.coe_unitOfCoprime 2 (Nat.prime_two.coprime_iff_not_dvd.mpr hn), Units.mul_left_eq_zero]
+
+theorem ne_neg_self (n : ℕ) [hn : Fact ((n : ℕ) % 2 = 1)] {a : ZMod n} (ha : a ≠ 0) : a ≠ -a := by
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:797]: This one shouldn't be using `Fact` (and probably should also be using `Odd`), but I guess that's out of scope.

File: Mathlib/Data/ZMod/Basic.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/Data/ZMod/Basic.lean:792]: Oh, thanks!

File: Mathlib/Data/ZMod/Basic.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Data/ZMod/Basic.lean:797]: I agree with Eric that it would be nice to excise this `Fact` in a future PR.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
